US07399759B2
2-(6-Ethoxy-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.17 g, 1.0 mmol), 2-cyano-6-ethoxypyridine (0.15 g, 1.0 mmol), triethylamine (0.21 ml, 1.5 mmol) and toluene (30 ml) was refluxed for 48 hrs. The reaction mixture was concentrated under reduced pressure. The residue was subjected to a column chromatography and eluted with hexane-ethyl acetate (3:1, v/v). The obtained crystals were recrystallized from ethyl acetate-hexane to give the titled compound (0.04 g, 14%).

reactant | methyl thiosalicylate | 1.0 mmol, 0.17 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-6-ethoxypyridine | 1.0 mmol, 0.15 g | C(#N)C1=NC(=CC=C1)OCC | C8H8N2O
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Ethoxy-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.04 g, 14% | C(C)OC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C15H12N2O2S
